US08895117B2
5-{4-[(4-{Difluoro-[4-(5-hydroxypent-1-ynyl)phenyl]methoxy}-3-methylphenoxy)difluoromethyl]phenyl}pent-4-yn-1-ol is hydrogenated to completion on palladium/active carbon catalyst in THF. The catalyst is filtered off, and the filtrate is evaporated in vacuo, giving 5-{4-[(4-{difluoro-[4-(5-hydroxypentyl)phenyl]methoxy}-2-methylphenoxy)difluoromethyl]phenyl}-pentan-1-ol, which is sufficiently pure for further reactions.

reactant | 5-{4-[(4-{Difluoro-[4-(5-hydroxypent-1-ynyl)phenyl]methoxy}-3-methylphenoxy)difluoromethyl]phenyl}pent-4-yn-1-ol | FC(OC1=C(C=C(OC(C2=CC=C(C=C2)C#CCCCO)(F)F)C=C1)C)(C1=CC=C(C=C1)C#CCCCO)F | C31H28F4O4
solvent | THF | C1CCOC1 | C4H8O
product | 5-{4-[(4-{difluoro-[4-(5-hydroxypentyl)phenyl]methoxy}-2-methylphenoxy)difluoromethyl]phenyl}-pentan-1-ol | FC(OC1=CC(=C(OC(C2=CC=C(C=C2)CCCCCO)(F)F)C=C1)C)(C1=CC=C(C=C1)CCCCCO)F | C31H36F4O4
